Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Foreign body left proximal tibia
 
Major Surgical or Invasive Procedure:
Removal foreign body, deep.
Washout and debridement down to and inclusive of bone.
Application of VAC sponge x3
Washout and debridement down to and inclusive of bone.
Repair patellar tendon disruption.
Left lower leg debridement of skin and subcutaneous fat.
Left lower extremity gastrocnemius muscle flap
Left lower extremity local advancement closure of donor site.
Left lower extremity split-thickness skin graft 20 x 12 cm

 
History of Present Illness:
___ male with a history of a traumatic injury to the 
anterior surface of the tibia with an open wound over patellar 
tendon ___. He underwent a
patella tendon repair as well. Decision was made to bring him
to the operating room for repair and wound closure with
coverage with gastrocnemius flap and split-thickness skin
graft.  
 
Physical Exam:
AVSS
NAD
RRR
CTAB
ABD Soft NT ND
Ext: Skin graft donor site: xeroform partially intact, healing 
well
Gastroc flap w/ STSG:  Full take, healing well

 
Pertinent Results:
___ 10:45AM BLOOD WBC-10.5# RBC-4.40* Hgb-12.1* Hct-37.5* 
MCV-85 MCH-27.6 MCHC-32.4 RDW-13.2 Plt ___
___ 10:45AM BLOOD Glucose-101 UreaN-10 Creat-0.7 Na-141 
K-4.0 Cl-102 HCO3-30 AnGap-13
___ 10:45AM BLOOD ALT-65* AST-39 AlkPhos-64
___ 10:45AM BLOOD Calcium-9.1 Phos-3.9 Mg-2.2

CT LEFT LOWER EXTREMITY WITHOUT INTRAVENOUS CONTRAST: 
  
At the site of foreign body extraction, there is a large, 
approximately 3.7 x 
1.7 x 1.7 cm osseous defect within the proximal tibia at the 
metadiaphysis, 
which does not involve the tibial articular surface (2:40, 
450A:42). There is 
associated interruption of the cortex at the anteromedial aspect 
of the tibia, 
where tiny locules of gas are seen. There is overlying soft 
tissue defect of 
skin and fat, with packing at the site of surgical debridement. 
The defect 
extends up to, but does not breach, the posterior tibial cortex. 
No other 
sbony injury is detected. The patellar tendon appears 
essentially intact, 
consistent with the history of surgical repair. There is 
expected surrounding 
soft tissue edema. A tiny subcentimeter locule of fat is seen 
within the 
patellofemoral joint (2:14). 
  
The distal tibia and fibula appear normal. The ankle mortise 
intact and 
appears normal. Incidental note is made of an approximately 1.1 
x 0.9 x 0.5 cm 
intraosseous lipoma of the middle portion of the calcaneus 
(450A:61, 451B:46). 
  
IMPRESSION: 
  
1. Proximal tibial osseous and soft tissue defects at site of 
foreign body 
extraction, extending up tp, but not breaching, the posterior 
tibial cortex, 
with surrounding soft tissue edema. 
  
2. Intraosseous lipoma of calcaneus incidentally noted.

 LEFT KNEE, TWO VIEWS: An 81 x 11 mm radiopaque foreign body is 
seen embedded 
within the proximal tibial metaphysis. The object enters the 
bone obliquely 
and measures approximately 1.5 cm at the site of entry. There 
appears to be 
associated subcutaneous air along the proximal shin; however, 
this is 
difficult to definitively visualize due to overexposure of the 
soft tissue 
components. No joint effusion is seen in the suprapatellar 
space. The rest 
of the visualized bony structures appear within normal limits. 
  
IMPRESSION: Foreign object embedded within the proximal tibial 
metaphysis. 
  

 
Brief Hospital Course:
___:  To OR by Ortho trauma for removal of foreign object, 
debridement, VAC
___:  To OR by Ortho trauma for debridement, VAC, patellar 
tendon repair
___:  To OR by Plastic surgery for L gastroc flap, debridement, 
STSG, VAC placement
___:  Superficial cellulitis LLE: Abx-Vanc, then  
Dicloxicillin.  Improved.  To complete 14d course abx.

Incremental increases in LLE dangling from bed daily.  Worked 
with ___ on ___ and ___ for eval for home.

Tolerating regular diet, pain well controlled.  Patient 
ambulating with crutches, and able to use crutches with stairs 
(stairs at home).

 
Medications on Admission:
n/a
 
Discharge Medications:
1. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for pruritis.  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
Disp:*21 Capsule(s)* Refills:*1*
5. Dicloxacillin 500 mg Capsule Sig: One (1) Capsule PO Q6H 
(every 6 hours) for 8 days.
Disp:*32 Capsule(s)* Refills:*0*
6. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain or fever.  
7. Diazepam 5 mg Tablet Sig: One (1) Tablet PO q6 hours as 
needed for muscle spasm.
Disp:*12 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Impaled foreign body left proximal tibia
Patellar tendon tear.
Open wound left lower extremity

 
Discharge Condition:
Good

 
Discharge Instructions:
Touch down weight bearing status, use crutches when ambulating.  
Keep knee immobilizer when out of bed.  Continue multi-podus 
splint on Left lower extremity.  Keep ACE wrap to left lower 
extremity up to knee.  Keep skin graft covered with xeroform. 
and wrapped with Kerlix.

GENERAL DISCHARGE SUMMARY
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications.
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.
* Any serious change in your symptoms, or any new symptoms that 
concern you.
* Please resume all regular home medications and take any new 
meds as ordered. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.

 
Followup Instructions:
___